US03963718
A mixture of 8 parts of α(2-aminoethyl)benzylalcohol, 7.2 parts of 2-(nitramino)- 1,4,5,6-tetrahydropyrimidine and 40 parts of xylene is stirred and refluxed for 48 hours with waterseparator. Upon cooling the reaction mixture, the product is separated as an oil. The xylene is decanted and the oily product is triturated in diisopropylether. The solid product is filtered off and crystallized from acetone, yielding α-[2-(1,4,5,6-tetrahydro-2-pyrimidinylamino)ethyl]benzylalcohol; m.p. 130°-135°C.

reactant | α(2-aminoethyl)benzylalcohol | NCCC(C1=CC=CC=C1)O | C9H13NO
reactant | 2-(nitramino)- 1,4,5,6-tetrahydropyrimidine | N([N+](=O)[O-])C=1NCCCN1 | C4H8N4O2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | α-[2-(1,4,5,6-tetrahydro-2-pyrimidinylamino)ethyl]benzylalcohol | N1C(=NCCC1)NCCC(C1=CC=CC=C1)O | C13H19N3O
